US06384041B1
A mixture of 240 mg (0.462 mmol) of [[2-(methylthio)-5-(aminooxoacetyl)-6-ethyl-7-([1,1′-biphenyl]-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester and 15 mL of methanol was treated with 0.35 mL of 2 M sodium hydroxide and stirred at ambient temperature for 24 hours. The reaction was then adjusted to pH 2 by the addition of 1 M HCl. The mixture was concentrated and the solids were dried in vacuo to provide 162 mg (69%) of [[2-(methylthio)-5-(aminooxoacetyl)-6-ethyl-7-([1,1 ′-biphenyl] -2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid as a solid. nmr (300 MHz, dmso-d6) δ0.78 (t, 3H), 2.44 (s, 3H), 2.60 (q, 2H), 4.84 (s, 2H), 5.40 (s, 2H), 6.74 (d, 1H), 7.2-7.5 (m, 9H), 7.60 (s, 1H), 7.97 (s, 1H)

reactant | [[2-(methylthio)-5-(aminooxoacetyl)-6-ethyl-7-([1,1′-biphenyl]-2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester | 0.462 mmol, 240 mg | COC(COC=1C2=C(N=C(N1)SC)N(C(=C2C(C(=O)N)=O)CC)CC2=C(C=CC=C2)C2=CC=CC=C2)=O | C27H26N4O5S
reactant | sodium hydroxide | 2 M, 0.35 mL | [OH-].[Na+]
reactant | HCl | 1 M | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
product | [[2-(methylthio)-5-(aminooxoacetyl)-6-ethyl-7-([1,1 ′-biphenyl] -2-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid | 162 mg, 69% | CSC=1N=C(C2=C(N1)N(C(=C2C(C(=O)N)=O)CC)CC2=C(C=CC=C2)C2=CC=CC=C2)OCC(=O)O | C26H24N4O5S
